US04729847
Hydroquinone monobenzyl ether (100.0 g, 0.50 mol) was dissolved in pyridine (600 ml), followed by dropwise adding to the solution, a solution of p-(1-methyl-heptyloxy)benzoic acid chloride (122.2 g, 0.45 mol) dissolved in toluene (600 ml), under ice cooling, agitating the mixture for 2 hours while keeping the temperature at about 50°-60° C., allowing it to stand overnight, thereafter adding toluene (3,000 ml) and water (2,000 ml), agitating the mixture, washing the toluene layer with 6N-HCl, then with 2N-NaOH aqueous solution and further with water until the wash water became neutral, distilling off toluene and recrystallizing the residue from ethanol to obtain p-(1-methyl-heptyloxy)-benzoic acid p-benzyloxyphenyl ester (121.0 g).

reactant | Hydroquinone monobenzyl ether | 0.50 mol, 100.0 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | p-(1-methyl-heptyloxy)benzoic acid chloride | 0.45 mol, 122.2 g | CC(CCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
reactant | water | 2,000 ml | O | H2O
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3,000 ml | C1(=CC=CC=C1)C | C7H8
product | p-(1-methyl-heptyloxy)-benzoic acid p-benzyloxyphenyl ester | 121.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(C1=CC=C(C=C1)OC(CCCCCC)C)=O | C28H32O4
